US06320050B1
A solution of 3-cyclopentyl-2-(3-trifluoromethanesulfonyl-phenyl)-propionic acid methyl ester (1.28 g, 3.52 mmol) in tetrahydrofuran (12 mL) was treated with a 0.8M aqueous lithium hydroxide solution (4.9 mL, 3.88 mmol). The reaction mixture was stirred at 25° C. for 24 h and then concentrated in vacuo to remove tetrahydrofuran. The resulting yellow oil was partitioned between water (50 mL) and ethyl acetate (50 mL) and then treated with a 1N aqueous hydrochloric acid solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3-trifluoromethanesulfonyl-phenyl)-propionic acid (1.09 g, 99%) as a viscous yellow oil that solidified upon sitting to a white solid: mp 86-88° C.; EI-HRMS m/e calcd for C15H17F3O4S (M+) 350.0800, found 350.0792.

reactant | 3-cyclopentyl-2-(3-trifluoromethanesulfonyl-phenyl)-propionic acid methyl ester | 3.52 mmol, 1.28 g | COC(C(CC1CCCC1)C1=CC(=CC=C1)S(=O)(=O)C(F)(F)F)=O | C16H19F3O4S
reactant | lithium hydroxide | 3.88 mmol, 0.8M, 4.9 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(3-trifluoromethanesulfonyl-phenyl)-propionic acid | 1.09 g, 99% | C1(CCCC1)CC(C(=O)O)C1=CC(=CC=C1)S(=O)(=O)C(F)(F)F | C15H17F3O4S
